US08614206B2
To a solution of 3-chloro-1-methyl-4-nitro-1H-pyrazole (1.0 g, 6.17 mmol) in ethanol (10 mL) was added DIPEA (2 mL, 11.4 mmol) followed by 4-hydroxypyridine (686 mg, 6.79 mmol). The reaction mixture was heated at 130° C. in the microwave for 60 min before the solvents were removed under reduced pressure. Purification of the residue via silica gel column chromatography (75-100% EtOAc/isohexane) gave 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-ol as a bright yellow oil (1.46 g). To a solution of this oil (1.40 g, 6.17 mmol) in DCM (40 mL) was added portionwise Dess-Martin periodinane (3.1 g, 7.41 mmol). The reaction mixture was stirred at room temperature for 3 hr, diluted with DCM (100 mL) and washed with saturated aqueous sodium hydrogencarbonate (30 mL), followed by saturated aqueous sodium thiosulphate (30 mL), saturated aqueous sodium hydrogencarbonate (30 mL) and brine (30 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (50-75% EtOAc/isohexane) gave 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-one as a yellow solid (1.32 g, 95% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 3.86 (s, 3H), 3.54 (t, J=6.0 Hz, 4H), 2.65 (t, J=6.0 Hz, 4H).

reactant | 3-chloro-1-methyl-4-nitro-1H-pyrazole | 6.17 mmol, 1.0 g | ClC1=NN(C=C1[N+](=O)[O-])C | C4H4ClN3O2
reactant | DIPEA | 11.4 mmol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxypyridine | 6.79 mmol, 686 mg | OC1=CC=NC=C1 | C5H5NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(1-methyl-4-nitro-1H-pyrazol-5-yl)piperidin-4-ol | 1.46 g | CN1N=CC(=C1N1CCC(CC1)O)[N+](=O)[O-] | C9H14N4O3
